US04731361
[Hydrochloride] A solution of 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (360 mg) in a mixture of anisole (2 ml) and trifluoroacetic acid (2 ml) is stirred at room temperature for 150 minutes and concentrated. The residue is dissolved in aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extract is purified by silica gel column chromatography to give 7beta-[(Z)-2-(2-aminothiazol-4-yl)-2-pentenoyl]amino-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (250 mg). This is dissolved in dichloromethane, mixed with a solution of hydrochloric acid in ethyl acetate, and concentrated. The crystalline residue is washed with ether to give the hydrochloride of above ester.

reactant | Hydrochloride | Cl | ClH
reactant | 7beta-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoyl]amino-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 360 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=CCS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O | C26H34N4O8S2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7beta-[(Z)-2-(2-aminothiazol-4-yl)-2-pentenoyl]amino-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 250 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=CCS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)N)=O)=O | C21H26N4O6S2
